US04555519
6-Chloro-N-[3-(2,4-dimethyl-1H-imidazol-1-yl)propyl]-3-pyridinecarboxamide
When 2,4-dimethyl-1H-imidazole-1-propanamine is treated with a mixture of 6-chloronicotinic acid and 1,1'-carbonyldiimidazole by the procedure of Example 30 the compound of the Example is obtained.

reactant | 2,4-dimethyl-1H-imidazole-1-propanamine | CC=1N(C=C(N1)C)CCCN | C8H15N3
reactant | 6-chloronicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 6-Chloro-N-[3-(2,4-dimethyl-1H-imidazol-1-yl)propyl]-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NCCCN1C(=NC(=C1)C)C | C14H17ClN4O
